US07365066B2
(6-Methyl-pyridin-2-yl)-propynoic acid ethyl ester
A solution of 2-Ethynyl-6-methyl-pyridine (0.5 g, 4.3 mmol) in THF (20 mL) is cooled to −78° C. and treated with 1.6 M n-butyllithium in hexanes (2.9 mL, 4.7 mmol) and stirred for 0.5 hours. This solution is then treated with ethyl chloroformate (2.85 mL, 30 mmol) and stirred for 3 hours while the solution warms to room temperature The reaction is diluted with saturated aqueous ammonium chloride and extracted with EtOAc. The solvent is concentrated to afford 0.67 g (83%) of desired product as a light yellow oil. UV (95% EtOH) λmax 286 nm (ε 10977), 238 nm (ε 9757). TOF MS ES+ exact mass calculated for C11H11NO2 (p+1): M/z=190.0868. Found: 190.0864.

reactant | 2-Ethynyl-6-methyl-pyridine | 4.3 mmol, 0.5 g | C(#C)C1=NC(=CC=C1)C | C8H7N
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | ethyl chloroformate | 30 mmol, 2.85 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | (6-Methyl-pyridin-2-yl)-propynoic acid ethyl ester | 0.67 g, 83% | C(C)OC(C#CC1=NC(=CC=C1)C)=O | C11H11NO2
